US07112582B2
Step 1: Preparation of (5-Methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-2-yl)-methanol
6,7-Dihydro-4H-thieno[3,2-c]pyridine-2,5-dicarboxylic acid diethyl ester (46 gram, 163 mmol) was dissolved in 200 ml THF. The solution was injected LAH (1M, THF) 300 ml at 23° C. Then it was stirred at 23° C. for 18 hrs. The reaction was quenched with 10 ml water and dried directly over sodium sulfate. Filter and concentrate yielded 29.3 gram (160 mmol, 98%) crude product.

reactant | 6,7-Dihydro-4H-thieno[3,2-c]pyridine-2,5-dicarboxylic acid diethyl ester | 163 mmol, 46 gram | C(C)OC(=O)C1=CC=2CN(CCC2S1)C(=O)OCC | C13H17NO4S
reactant | LAH | 1M, 300 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | (5-Methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-2-yl)-methanol | 160 mmol, 29.3 gram, 98% | CN1CC2=C(CC1)SC(=C2)CO | C9H13NOS
